* source AMPLIFICATOR_JF_ROBERTA
C_C1         N26084 N26604  470p  TC=0,0 
Q_Q1         N26084 N29477 N26078 QBC856B 
R_R7         GND N26544  1k TC=0,0 
R_R4         N26642 N26638  510 TC=0,0 
Q_Q4         N26170 N26170 N26266 QBC846B 
Q_Q5         N26078 N26392 N26366 QBC856B 
R_R5         VCC N26366  330 TC=0,0 
R_R10         VEE N26266  82 TC=0,0 
Q_Q10         N26638 N26642 N26604 QBC846B 
R_R2         N27144 VCC  330 TC=0,0 
Q_Q6         N26604 N26084 N43012 QBC846B 
Q_Q8         VCC N26638 OUT QMJD31C 
R_R9         VEE N26292  82 TC=0,0 
R_R15         N26968 VCC  1k TC=0,0 
R_Rs2         N34708 N27222  10 TC=0,0 
R_R8         N26604 N26642  510 TC=0,0 
R_R6         N26544 OUT  9.1k TC=0,0 
Q_Q3         N26084 N26170 N26292 QBC846B 
Q_Q7         N26638 N26392 N27144 QBC856B 
Q_Q9         VEE N26604 OUT QMJD32CT4G 
R_R14         N27050 VEE  1k TC=0,0 
R_R13         GND N26392  15k TC=0,0 
Q_Q2         N26170 N26544 N26078 QBC856B 
R_Rs1         N27222 OUT  10 TC=0,0 
R_R11         IN N29477  470 TC=0,0 
R_R12         GND N29477  330k TC=0,0 
X_U1         VCC N42690 1N4148 
X_U3         N43012 VEE 1N4148 
X_U2         N42690 N26392 1N4148 
